US05990311
8.12 g(11.2 ml, 80.3 mmole) of triethylamine, 30 ml of n-butanol and 6.58 g(44.1 mmole) of 1-methyl-1,2,3,4-tetrahydroisoquinoline were added to 40 ml of ethylene glycol. 10.1 g(40.1 mmole) of 4-chloro-2-(4-fluorophenylamino)-5,6-dimethylpyrimidine was added thereto and then reacted at 130° C. for 30 hours under refluxing to prepare 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine. This product was treated according to the procedure detailed in Example 14 to obtain 14.7 g of purified 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride.

reactant | triethylamine | 80.3 mmole, 11.2 ml, 8.12 g | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 44.1 mmole, 6.58 g | CC1NCCC2=CC=CC=C12 | C10H13N
reactant | 4-chloro-2-(4-fluorophenylamino)-5,6-dimethylpyrimidine | 40.1 mmole, 10.1 g | ClC1=NC(=NC(=C1C)C)NC1=CC=C(C=C1)F | C12H11ClFN3
reactant | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine | CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | C22H23FN4
solvent | ethylene glycol | 40 ml | C(CO)O | C2H6O2
solvent | n-butanol | 30 ml | C(CCC)O | C4H10O
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 14.7 g, Yield 91% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H23FN4.ClH/c1-14-15(2)24-22(25-19-10-8-18(23)9-11-19)26-21(14)27-13-12-17-6-4-5-7-20(17)16(27)3;/h4-11,16H,12-13H2,1-3H3,(H,24,25,26);1H
